US07326791B2
rac.-N-[1-(5-chloro-1H-indol-2-yl)ethyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide
Prepared analogously to Example 1g from 3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzoic acid, TBTU, diisopropylethylamine, and rac.-1-(5-chloro-1H-indol-2-yl)ethylamine in tetrahydrofuran. Yield: 95%; Rf value: 0.65 (silica gel: dichloromethane/ethanol/ammonia=9:1:0.1); C23H24ClN3O2 (409.915); mass spectrum: (M+H)+=410/412 (chlorine isotope).

reactant | 3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzoic acid | CC=1C=C(C(=O)O)C=CC1C(=O)N1CCCC1 | C13H15NO3
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | rac.-1-(5-chloro-1H-indol-2-yl)ethylamine | ClC=1C=C2C=C(NC2=CC1)C(C)N | C10H11ClN2
reactant | dichloromethane ethanol ammonia | ClCCl.C(C)O.N
reactant | chlorine | ClCl | Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | rac.-N-[1-(5-chloro-1H-indol-2-yl)ethyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide | Yield: 95% | ClC=1C=C2C=C(NC2=CC1)C(C)NC(C1=CC(=C(C=C1)C(=O)N1CCCC1)C)=O | C23H24ClN3O2
